US04997840
A mixture of 2'-chloroacetophenone (182 g), industrial methylated spirit (290 ml), methylamine (33% w/w solution in industrial methylated spirit, 3)3 ml) and copper powder (2.8 g) was stirred in a sealed pressure vessel for 5 hours at 90°. The reaction vessel was allowed to cool to ambient temperature and the mixture washed out of the vessel with industrial methylated spirit (2×100 ml). The combined reaction mixture and washings were stirred at 50°, a solution of sodium sulphide nonahydrate (24 g) in water (100 ml) was added over a period of 10 minutes, and stirring and heating were continued for a further 15 minutes. The mixture was filtered through diatomaceous earth (sold under the trade name CELITE) and the filter bed washed with industrial methylated spirit (100 ml). The filtrate was evaporated to give an oil which was stirred with hydrochloric acid (5M, 800 ml) for 1 hour. The resultant mixture was extracted with dichloromethane (600 ml, then 2×300 ml) and the combined extracts were washed with water (500 ml), dried over magnesium sulphate and evaporated to give an oil which was then distilled. The fraction distilling at 100°-110° and 5 mmHg was collected to give 2'-(methylamino)acetophenone, m.p. 36°-38°. The aqueous acid phase from above was basified by the addition of aqueous sodium hydroxide (specific gravity 1.5, 230 ml). The resultant mixture was extracted with dichloromethane (500 ml, then 250 ml) and the combined extracts were washed with water (300 ml), dried over magnesium sulphate and evaporated to give an oil. Trituration with petroleum ether (b.p. 40°-60°, 200 ml) gave a second crop of 2'-(methylamino)acetophenone, m.p. 36°-38°.

reactant | 2'-chloroacetophenone | 182 g | ClC1=C(C=CC=C1)C(C)=O | C8H7ClO
reactant | methylamine | 3 ml | CN | CH5N
reactant | sodium sulphide nonahydrate | 24 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | hydrochloric acid | 5M, 800 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
catalyst | copper | 2.8 g | [Cu] | Cu
product | 2'-(methylamino)acetophenone | CNC1=C(C=CC=C1)C(C)=O | C9H11NO
